Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
"I'm anxious about being here"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ year-old Caucasian unemployed male with 
history of major depressive disorder with two prior suicide 
attempt by hanging and overdose, and one prior psychiatric 
hospitalization, presenting after suicide attempt by hanging 
resulting in cardiac arrest and ROSC.
.
Per Dr. ___ ___ ED Initial Psychiatry Consult note:
___ was found unconscious by his father without a pulse with 
a dog collar around his neck, the leash tied to the door in the 
basement. Per family, he had appeared well, had a good weekend 
with his girlfriend the weekend prior, and had plans to spend 
time with his parents and this attempt seemed "out of the blue." 

.
On interview, ___ is withdrawn, noting that he is fine and 
wants to go home and provides vague responses regarding his 
intent behind the hanging, stating that he did not plan to die 
and was "just experimenting". He notes worsening depression 
during the past several months, but states that he just wants to 
"work through this" with the support of his family and his 
girlfriend. He reports that it "sucks" to be in the hospital as 
a result of his attempted hanging, but is not able to state 
clearly whether he is relieved or not that his attempt was 
aborted. He denies any suicidal plans, HI or AVH, but is unable 
to state how he would keep himself safe at home, especially in 
the setting of his recent attempt. Reports reluctance to be 
admitted as an inpatient given increased anxiety in the 
inpatient setting."
.
In the ED, patient was evaluated by ED team and trauma surgery 
consult for medical complications from hanging and medically 
cleared for admission to inpatient psychiatry. He was noted to 
have facial ecchymoses and conjunctival hemorrhages, thought 
caused by vascular congestion/rupture during hanging. CT head 
without contrast, CTA head and neck, portable CXR, ECG, basic 
labs and tox screen were reassuring. There were no significant 
events while boarding in ED. Patient received hydroxyzine 25mg 
BID PRN and home clonazepam 0.5mg BID for anxiety.
.
During admission interview, with Dr. ___ present, 
discussed his suicide attempt and events leading up to it. In 
general terms patient describes feeling more depressed and 
anxious over past few months. Was recently trying to get back 
into care (prior notes say family was trying to get him back 
into care) and restarted clonazepam for anxiety. Was not able to 
name specific triggers for worsening mood symptoms or suicide 
attempt at this time. Describes hanging as "just experimenting" 
or a rehearsal for future suicide attempt; claims he did not 
intend to end his life yet at that time. Regrets his actions and 
feels guilty for pain caused to loved ones. Identifies his 
family and girlfriend as reasons to live. Currently, he no 
longer has suicidal ideation. Contracts for safety.
.
He is anxious about being in inpatient psychiatry and does not 
perceive it necessary, explaining that he is no longer suicidal. 
Had prior negative experience inpatient at ___ 
unclear reasons for this. Interested in re-engaging in care 
including therapy and medication, but apprehensive about certain 
medications having felt oversedated on Seroquel previously. Has 
also been on multiple other medications "years ago", but does 
not recall details. Discussed antidepressant options including 
SSRIs, SNRIs, bupropion, as well as anxiolytics. Would like to 
continue clonazepam and defers to team for antidepressant 
recommendation; deferred latter decision to next encounter, 
after team obtains collateral on prior medication trials.
.
COLLATERAL:
Spoke via telephone with pt's therapist ___ 
(___): 
I haven't seen ___ in a while, but just prior to admission 
mother contacted me and prescribing NP also called me. Very 
challenging work when I was working with him. He would only go 
so far in the work. I felt like he was annoyed that he needed to 
be in treatment. I'm also concerned that his parents 
under-report. He and parents did not tell me about prior attempt 
or attempts, I learned there had been one prior from his NP, and 
when his mother called me recently she said he had an "incident" 
rather than a suicide attempt. Although he didn't like it, the 
most progress he has ever made has been when he was in a 
structured environment. After prior hospitalization, he was in 
day treatment and couldn't wait to get out of it, hated anything 
introspective. But he did well despite this. He does have 
difficulty with authority. When he has had the fortune to get a 
job, he develops issues with his bosses. He has low frustration 
tolerance. It's important not to under-appreciate how precarious 
he is.
.
Spoke with patient's father ___ via telephone 
(___) after he called in asking to speak to team. He 
asks when we will be able to meet in person. Would like to be 
involved in medication discussion and has a timeline of 
medications patient has been on in the past, which he will bring 
in tonight when he comes to visit. Does not want patient on 
antipsychotics; says Seroquel "turned him into a zombie" in the 
past. Describes patient as struggling with his identity and 
having difficulty "finding his path in life."
.
Collateral previously obtained from mother in father by Dr. 
___: 
"worsening depression during the past several months in the 
setting of not being sure what his future path will be. One year 
prior, stopped seeing his therapist and psychiatrist per his 
choice. Endorses that he did not have a good experience 
inpatient at ___ and that inpatient hospitalization 
makes him more anxious. Father expressed concern about patient 
previously being trialed on antipsychotic medication, which he 
describes as "just drugging him up to knock him out." In the 
setting of worsening depression, made appointments with ___ 
___, his prior therapist, and saw ___, prescribing 
psychiatric nurse, who initiated him on clonazepam 0.5mg twice 
daily on ___ of last week. Reluctantly in agreement 
regarding patient's need for hospitalization given severity of 
his attempt." 
.
 
Past Medical History:
Medical
-Problems: Hyperlipidemia
-PCP: ___, MD
-___ history of head trauma or seizure.
.
Psychiatric:
-Prior diagnoses: depression, anxiety 
-Hospitalizations: 1 prior at ___ in ___, 
reportedly for SI and SIB by cutting
-Partial hospitalizations: denies
-Psychiatrist: ___ RN
-Therapist: ___
-Medication trials: hydroxyzine, buspar, escitalopram,
quetiapine, fluoxetine, abilify, sertraline, lorazepam,
venlafaxine***
-___ trials: denies
-Suicide attempts: 2 prior attempts in ___, 1 by overdose on 
alcohol and benzos ("just woke up"), 1 by hanging from tree
-Self-injurious behavior: history of superficial cutting (last 
in
___
-Harm to others: denies
-Trauma: denies
-Access to weapons: denies
.
Medication trials:
Reviewed medication list provided by patient's father. Patient 
and parents unable to recall patient's experience on 
medications, except for oversedation on antipsychotics. They 
believe meds were stopped due to patient not wanting to take any 
longer, or lack of benefit. Patient was on following 
medications, generally for only 1 month each except as noted:
-Hydroxyzine 50mg Q4-6H PRN anxiety (___)
-Buspirone 10mg TID (___)
-Escitalopram 10mg daily (___)
-Quetiapine (uptitration from 25mg to 300mg from ___ to 
___, then stopped and resumed briefly at 100mg in ___
-Fluoxetine 20mg (from ___ to ___
-Lorazepam 0.5mg (___)
-Sertraline 50mg (___)
-Aripiprazole 5mg (once each in ___
-Venlafaxine 75mg ___ then once in ___
-Clonazepam 0.5mg ___ and ___
.
 
Social History:
___
Family History:
-Psychiatric Diagnoses: denies
-Substance Use Disorders: denies
-Suicide Attempts/Completed Suicides: denies
 
Physical Exam:
ADMISSION EXAM 
.
General:
-HEENT: reddish facial discoloration, bilateral conjunctival
hemorrhages, and ligature marks on neck
-Cardiovascular: regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops
-Pulmonary: normal work of breathing, lung sounds quiet, no
wheezes/rhonchi/rales
-Abdominal: non-distended, bowel sounds normoactive, no
tenderness to palpation
-Extremities: warm and well-perfused
-Skin: see HEENT; otherwise, no lesions/rashes noted
.
Neuro:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly; brisk bilaterally.  VFF to
confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: no dysmetria or tremor on finger-nose-finger
-Gait: Good initiation.  Narrow-based, normal stride.
.
Cognitive: 
-Wakefulness/alertness: awake and alert
-Attention: MOYb with 0 errors, attentive to interview
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 min, not improved
with category clue or multiple choice, long-term grossly intact
-Fund of knowledge: Consistent with education
-Calculations: $2.25 = "9" quarters
-Abstraction: Interprets "don't judge a book by it's cover" as
"don't judge people prematurely"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
.
Mental Status:
-Appearance: age-appearing male, reddish facial discoloration, 
bilateral conjunctival hemorrhages, and ligature marks on neck, 
fair grooming/hygiene, wearing hospital gown, mucous membranes 
moist, oropharynx clear, neck supple, in no acute distress
-Behavior/Attitude: appeared to be anxiously pacing while 
awaiting interview, superficially cooperative, withdrawn
-Mood/Affect: "anxious about being here", dysphoric, depressed, 
restricted, nonreactive
-Speech: normal rate, volume, tone
-Thought process: vague at times; otherwise linear, coherent, 
goal-oriented, no loose associations
-Thought content: presenting after serious suicide attempt by 
intentional hanging, denies current SI, denies HI, denies AVH, 
no evidence of paranoia or delusions, does not appear to be 
attending to internal stimuli
-Judgment/Insight: poor, poor

Mental Status Exam:
Appearance: well groomed, taking showers
Facial expression: friendly, smiling on approach
build: WNL
Behavior: engaging, cooperative, pleasant
Eye contact: direct
psychomotor: no abnormal involuntary movements, no agitation
Speech: normal rate, and tone
Mood/affect: "OK", stable, hopeful, no irritability, much less
anxious
Thought Process/content: reality oriented, goal directed, denies 

SI/HI, denies AH/VH/paranoid delusions, 
Intellectual Functioning: decreased concentration
Oriented: x4
Memory: grossly intact
insight: fair
Judgment: fair

 
Pertinent Results:
CBC:
___ 07:45AM BLOOD WBC-8.1 RBC-5.36 Hgb-15.3 Hct-46.1 MCV-86 
MCH-28.5 MCHC-33.2 RDW-13.1 RDWSD-40.9 Plt ___
.
BMP:
___ 07:45AM BLOOD Glucose-97 UreaN-16 Creat-0.7 Na-141 
K-4.6 Cl-103 HCO3-23 AnGap-15
.
LFTs:
___ 07:45AM BLOOD ALT-23 AST-21 LD(LDH)-168 AlkPhos-96 
TotBili-0.3 Albumin-4.5
.
Metabolic:
___ 07:45AM BLOOD %HbA1c-5.0 eAG-97
___ 07:45AM BLOOD Triglyc-319* HDL-47 CHOL/HD-5.3 
LDLcalc-140*
.
Endocrine:
___ 07:45AM BLOOD TSH-3.4
___ 07:45AM BLOOD PTH-38
___ 07:45AM BLOOD 25VitD-19*
.
Toxicology:
___ 15:52    Phenoba Phenyto Lithium Valproa 
                      <3*     1.5*   <0.1*    <3* 
___ 15:52    ASA Ethanol Carbamz Acetmnp Tricycl 
                    NEG   NEG1    <2*     NEG    NEG2 
___ 22:05    URINE bnz barbitr opiat cocain amphetm 
oxycodn mthdone 
                          POS*1 NEG    NEG2   NEG   NEG      NEG 
   NEG3 
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, ___ signed a conditional voluntary agreement 
(Section 10 & 11) and remained on that level throughout their 
admission. He was also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted.
.
2. PSYCHIATRIC:
On presentation, ___ was noted to be irritable, angry, and 
preoccupied with discharge. He characterized his hanging as 
"experimenting" gone wrong (denied suicidal intent), and 
initially, neither he nor his family disclosed his history of 
prior suicide attempts (later disclosed this). He had difficulty 
with introspection and naming emotions, but described several 
months of worsening depression, anxiety, and a sense of 
hopelessness and purposelessness related to perceived 
underachievement in academic, occupational, and personal 
domains. He described low self esteem, harsh self criticism, and 
his family described a pattern of reacting to relatively minor 
setbacks in an excessively negative manner. Neuropsychological 
testing was performed during hospitalization and was significant 
for cognitive impairment, primarily in memory and executive 
functioning. Neuroimaging was unremarkable.
.
Diagnostically most consistent with recurrent major depressive 
disorder with anxious distress. He has evidence of cluster B 
personality traits. His irritability raises suspicion for 
bipolar diathesis, but he does not demonstrate other manic 
symptoms; most likely it is a feature of his depression or 
personality structure. He has evidence of cognitive deficits 
(memory, executive function) of unclear etiology and chronicity. 
He was found to have vitamin D deficiency which may contribute 
to, but is unlikely to explain, his mood and cognitive symptoms.
.
Interventions included individual and group therapy, family 
therapy, medication management, and aftercare planning. 
Bupropion SR was started for depression and favorable side 
effect profile and titrated to 100mg BID; he tolerated the 
medication well without side effects and with reported reduction 
in depressive symptoms. Lamotrigine 25mg QHS was started for 
irritability/anger and impulsivity and he remained at this dose; 
this medication was also well-tolerated without any reported 
side effects, and a marked reduction in his irritability/anger 
was observed. He was initially given home clonazepam 0.5mg BID 
for anxiety, but this was weaned off due to concern for 
patient's history of prior suicide attempt by overdose on 
benzodiazepines and alcohol. Hydroxyzine 25mg PRN anxiety was 
offered as an alternative, but he tolerated the clonazepam taper 
well without worsening anxiety and did not use his PRNs. 
.
Over course of hospitalization, patient's irritability, 
engagement in treatment, and insight into his hanging markedly 
improved. On discharge, patient's mental status was notable for 
fair grooming and hygiene, calm cooperative behavior, mildly 
irritable affect, linear thought process, lack of abnormal 
thought content, improved insight and judgment. Future providers 
should consider uptitrating Bupropion as tolerated and switching 
to XR formulation. Lamotrigine can also be titrated slowly as 
needed.
.
3. SUBSTANCE USE DISORDERS: N/A
.
4. MEDICAL
 1) Hanging with cardiac arrest
___ was evaluated and medically cleared for admission to 
inpatient psychiatry. Workup included physical exam, basic labs, 
and imaging (CTA head and neck). There was no evidence of 
significant medical complications. He was however noted to have 
bilateral conjunctival hemorrhages. He should followup with his 
primary care provider.
.
 2) Vitamin D deficiency
___ was found to have low serum levels of the active form of 
Vitamin D. He received 2 doses of 50,000U Vit D weekly. He 
should continue a 800-1000U Vit D supplement daily. Recommend 
rechecking in 3 months by PCP.
.
 3) Hyperlipidemia
___ was found to have high total and LDL cholesterol and 
triglycerides. He reported known history of hyperlipidemia. He 
should follow a heart healthy diet and followup with his PCP for 
further management.
.
5. PSYCHOSOCIAL
 1) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. In milieu, he was generally 
reserved but visible.
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
 ___ mother and father visited frequently and several 
family meetings were held.
.
#) INTERVENTIONS
 - Medications: Bupropion, Lamotrigine, Hydroxyzine, Clonazepam 
(discontinued)
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: Partial Hospitalization Program, 
new providers
 - ___: chain analysis, coping skills, DBT 
skills
 - Guardianships: N/A
.
INFORMED CONSENT: 
The team discussed the indications for, intended benefits of, 
and possible side effects and risks of starting Bupropion, 
Lamotrigine, and Hydroxyzine, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient. We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team. The patient 
appeared able to understand and consented to begin the 
medication.
.
RISK ASSESSMENT & PROGNOSIS
On presentation, ___ was evaluated and felt to be at an 
increased risk of harm to himself based upon acute 
high-lethality suicide attempt by hanging, current depression, 
lack of engagement with outpatient providers, lack of day 
structure, impulsivity, chronic mental illness, history of 
self-injurious behavior, prior psychiatric hospitalization, 
demographics including late adolescent/young adult age, male 
gender, Caucasian ethnicity. The modifiable risk factors were 
addressed through individual and group therapy, medication 
management, and aftercare planning. ___ is being discharged 
with many protective factors, including lack of current suicidal 
ideation, social support from family and girlfriend, sense of 
responsibility to family, available outpatient treaters, and 
lack of substance use. Based on the totality of our assessment 
at this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 
.
MODIFIABLE RISK FACTORS
-history of multiple suicide attempts
-high-lethality suicide attempt (or rehearsal) by hanging
-lack of engagement with outpatient providers
-lack of day structure
-impulsivity
-chronic mental illness
-history of self-injurious behavior
-prior psychiatric hospitalization
-male gender
-adolescent/young adult age
-Caucasian ethnicity
.
PROTECTIVE RISK FACTORS
-lack of current suicidal ideation
-sense of responsibility to family
-social support from family and girlfriend
-available outpatient providers
-lack of substance use
.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO BID 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 100 mg PO BID 
RX *bupropion HCl 100 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
2.  HydrOXYzine 25 mg PO DAILY PRN anxiety 
RX *hydroxyzine HCl 25 mg 1 tablet(s) by mouth three times a day 
Disp #*21 Tablet Refills:*0 
3.  LamoTRIgine 25 mg PO QHS 
RX *lamotrigine 25 mg 1 tablet(s) by mouth at bedtime Disp #*7 
Tablet Refills:*0 
4.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent, severe
Anxiety NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___